US07470807B2
Synthesis of 2-bromo-6-sulfamoylaminonaphthalene (Intermediate 66)
A solution of chlorosulfonyl isocyanate (870 μl, WAKO) in benzene (10 ml) was added dropwise with formic acid (377 μl, WAKO) under ice cooling, warmed to room temperature, stirred and for 19.5 hours, then warmed to 40° C., and further stirred for 4 hours. The reaction mixture was added dropwise with a solution of 2-amino-6-bromonaphthalene (443 mg) in benzene (5 ml) under ice cooling, warmed to room temperature, and stirred 21.5 hours. The reaction mixture was filtered to obtain solid, and the solid was added with ethyl acetate, mixed and filtered again. The solvent of the filtrate was evaporated under reduced pressure. The residue was purified by column chromatography (Quad, hexane:ethyl acetate=2:1) to obtain the title compound (Intermediate 66, 158 mg).

reactant | chlorosulfonyl isocyanate | 870 μl | ClS(=O)(=O)N=C=O | CClNO3S
reactant | formic acid | 377 μl | C(=O)O | CH2O2
reactant | 2-amino-6-bromonaphthalene | 443 mg | NC1=CC2=CC=C(C=C2C=C1)Br | C10H8BrN
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | benzene | 10 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 5 ml | C1=CC=CC=C1 | C6H6
product | 2-bromo-6-sulfamoylaminonaphthalene | 158 mg | BrC1=CC2=CC=C(C=C2C=C1)NS(N)(=O)=O | C10H9BrN2O2S
